US09102591B2
N-[4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2-fluoro-5-methoxybenzamide
From 2-fluoro-5-methoxybenzoic acid and C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=397.1, tR (minutes, Method D)=0.71

reactant | 2-fluoro-5-methoxybenzoic acid | FC1=C(C(=O)O)C=C(C=C1)OC | C8H7FO3
reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
product | N-[4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2-fluoro-5-methoxybenzamide | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CNC(C1=C(C=CC(=C1)OC)F)=O)F | C20H20F4N2O2
